US08669266B2
(iii) 4-[(S)-2-Amino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate
To a solution of 146 mg 4-[(S)-2-tert-Butoxycarbonylamino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester in 5 ml dichloromethane were added 0.4 ml TFA. After 12 h stirring at RT the solvents were removed and the residue was codistilled twice with toluene. Yield: 156 mg.

reactant | 4-[(S)-2-tert-Butoxycarbonylamino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester | 146 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC=1C(=NOC1C)O)NC(=O)OC(C)(C)C)=O | C21H34N4O7
reactant | TFA | 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[(S)-2-Amino-3-(3-hydroxy-5-methyl-isoxazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC=1C(=NOC1C)O)N)=O | C16H26N4O5
